US05447957
b) Methyl 2-(2-amino-4-trifluoromethylphenoxy)benzoate
A mixture of methyl 2-(2-nitro-4-trifluoromethylphenoxy)benzoate (26 g, 0.076 mol) and 10% palladium on carbon (1 g) in ethyl acetate (400 mL) was hydrogenated in a parr bottle at 55 psi for 2 h. The reaction mixture was flushed with argon, filtered through Celite® and evaporated. The crude product was purified by flash chromatography (silica gel, ethyl acetate/hexane) to give the title compound as a white solid. 1H NMR (250 MHz, CDCl3) δ7.91 (dd, 1H), 7.45-7.53 (m, 1H), 7.17-7.24 (m, 1H), 6.88-7.03 (m, 3H), 6.78 (d, 1H), 4.25 (br s, 2H), 3.84 (s, 3H).

reactant | methyl 2-(2-nitro-4-trifluoromethylphenoxy)benzoate | 0.076 mol, 26 g | [N+](=O)([O-])C1=C(OC2=C(C(=O)OC)C=CC=C2)C=CC(=C1)C(F)(F)F | C15H10F3NO5
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | Methyl 2-(2-amino-4-trifluoromethylphenoxy)benzoate | NC1=C(OC2=C(C(=O)OC)C=CC=C2)C=CC(=C1)C(F)(F)F | C15H12F3NO3
